US05081117
cis-(±)-5-Bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indol-6-ol
cis-(±)-5-Bromo-1,2,3,3a,8,8a-hexahydro-6-methoxy-1,3a,8-trimethylpyrrolo[2,3-b]indol (11 g) was dissolved in dry DCM (200 ml) and added dropwise at 0° C. to a stirred solution of BBr3 in DCM (300 ml). The mixture was warmed to room temperature and stirred overnight under nitrogen. The mixture was quenched with aq. Na2CO3 and aq. NaHCO3 until basic at 0° C. The organic layer was dried and evaporated to a foam (10 g). The IR, NMR and Mass Spectra confirmed the purity and identity of this product.

reactant | cis-(±)-5-Bromo-1,2,3,3a,8,8a-hexahydro-6-methoxy-1,3a,8-trimethylpyrrolo[2,3-b]indol | 11 g | BrC=1C=C2[C@]3([C@@H](N(C2=CC1OC)C)N(CC3)C)C | C14H19BrN2O
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
product | cis-(±)-5-Bromo-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]indol-6-ol | BrC=1C=C2[C@]3([C@@H](N(C2=CC1O)C)N(CC3)C)C | C13H17BrN2O
